US08614206B2
5-amino-N-(5-((4S,5S)-4-amino-5-fluoroazepan-1-yl)-1-cyclopropyl-1H-pyrazol-4-yl)-2-(2,6-difluorophenyl)thiazole-4-carboxamide 278
Following the procedure for Example 107 starting from N-(1-(4-amino-1-cyclopropyl-1H-pyrazol-5-yl)-5-fluoroazepan-4-yl)-2,2,2-trifluoroacetamide and 5-(tert-butoxycarbonyl-amino)-2-(2,6-difluorophenyl)thiazole-4-carboxylic acid gave, after purification via preparative HPLC, 278 as the monoformate salt as an off-white solid (209 mg, 50% over two steps). 1H NMR (400 MHz, d4-MeOD) δ 8.54 (s, 1H), 7.52 (s, 1H), 7.51-7.44 (m, 1H), 7.19-7.12 (m, 2H), 4.86 (dtd, J=48.0, 9.3, 3.0 Hz, 1H), 3.61-3.47 (m, 2H), 3.48-3.36 (m, 4H), 2.46-2.32 (m, 1H), 2.26-2.05 (m, 2H), 1.99-1.86 (m, 1H), 1.23-1.11 (m, 2H), 1.13-1.05 (m, 2H). LCMS (ES+) m/z 492 (M+1)

reactant | N-(1-(4-amino-1-cyclopropyl-1H-pyrazol-5-yl)-5-fluoroazepan-4-yl)-2,2,2-trifluoroacetamide | NC=1C=NN(C1N1CCC(C(CC1)F)NC(C(F)(F)F)=O)C1CC1 | C14H19F4N5O
reactant | 5-(tert-butoxycarbonyl-amino)-2-(2,6-difluorophenyl)thiazole-4-carboxylic acid | C(C)(C)(C)OC(=O)NC1=C(N=C(S1)C1=C(C=CC=C1F)F)C(=O)O | C15H14F2N2O4S
product | 5-amino-N-(5-((4S,5S)-4-amino-5-fluoroazepan-1-yl)-1-cyclopropyl-1H-pyrazol-4-yl)-2-(2,6-difluorophenyl)thiazole-4-carboxamide | NC1=C(N=C(S1)C1=C(C=CC=C1F)F)C(=O)NC=1C=NN(C1N1CC[C@@H]([C@H](CC1)F)N)C1CC1 | C22H24F3N7OS
